US07342039B2
To a solution of 2-(4-tert-butyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester (0.313 g, 0.96 mmol) in tetrahydrofuran (14 mL) was added 1-benzyl-1H-indole-3-carbaldehyde O-(3-hydroxy-propyl)-oxime (0.303 g, 0.98 mmol) and triphenyl phosphine (0.327 g, 1.26 mmol). The reaction was cooled to 0° C., diisopropyl azodicarboxylate (0.240 mL, 1.22 mmol) was added and warmed to room temperature overnight. It was poured into brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (10/90) to afford 4-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid methyl ester (0.328g, 55 %) as a white solid. (+ES, M+H) m/z 618. 1H NMR (400 MHz, DMSO-d6); δ 11.95 (s, 1H), 8.42 (d, 1H), 8.38 (s, 1H), 7.98 (m, 2H), 7.88 (d, 2H), 7.82 (s, 1H) 7.62 (d, 2H), 7.47 (d, 1H), 7.29 (m, 2H), 7.21 (m, 4H), 7.08 (m, 1H), 6.81 (dd, 1H), 5.43 (s, 2H), 4.24 (m, 4H), 3.88 (s, 3H), 2.19 (m, 2H), 1.32 (s, 9H). Elemental analysis: Calcd. for C38H39N3O5: C, 73.88; H, 6.36; N, 6.8. Found: C, 73.40; H, 6.44; N, 6.37.

reactant | 2-(4-tert-butyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester | 0.96 mmol, 0.313 g | COC(C1=C(C=C(C=C1)O)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C19H21NO4
reactant | 1-benzyl-1H-indole-3-carbaldehyde O-(3-hydroxy-propyl)-oxime | 0.98 mmol, 0.303 g | OCCCON=CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1 | C19H20N2O2
reactant | triphenyl phosphine | 1.26 mmol, 0.327 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.22 mmol, 0.240 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid methyl ester | 0.328g, 55 % | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C38H39N3O5
